US04066645
a. 6-Chloro-4-hydrazino-3-pyridinecarboxylic acid, methyl ester
205 g. of 4,6-dichloro-3-pyridinecarboxylic acid, methyl ester (1 mol.) are dissolved in 1 liter of methanol. The solution is cooled to 0° and 100 g. of hydrazine hydrate are dropped in with stirring. The solution is kept at 0° for 12 hours. The precipitated 6-chloro-4-hydrazino-3-pyridinecarboxylic acid, methyl ester is filtered off and recrystallized from methanol, yield: 175 g. (87%); m.p. 163.3°.

reactant | 4,6-dichloro-3-pyridinecarboxylic acid, methyl ester | 1 mol | ClC1=C(C=NC(=C1)Cl)C(=O)OC | C7H5Cl2NO2
reactant | hydrazine hydrate | O.NN
solvent | methanol | 1 liter | CO | CH4O
product | 6-Chloro-4-hydrazino-3-pyridinecarboxylic acid, methyl ester | ClC1=CC(=C(C=N1)C(=O)OC)NN | C7H8ClN3O2
